US04867915
A stirred solution of sodium ethoxide in ethanol, obtained from 1.3 g of sodium and 50 ml of absolute ethanol was treated dropwise with 5.5 g (0.05mol) of thiophenol in 15 ml of absolute ethanol. The reaction mixture was refluxed for 1 hour and then treated with 5.84 g (0.025 mol) of 1-bromobut-2-yn-4-ol tetrahydropyranyl ether, refluxing the mixture for 2 additional hours. It was then cooled, poured into water and extracted withmethylene chloride. The organic extract was washed with water, dried and evaporated to dryness in vacuo. The residue was purified by silica gel column chromatography, to produce 4-phenylthiobut-2-yn-1-ol tetrahydropyranyl ether, as an oil. Upon hydrolysis of the ether group with pyridinium p-toluenesulfonate in ethanol, in accordance with the method of Example 16, part E, there was obtained 4-phenylthiobut-2-yn-1-ol.

reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethanol | C(C)O | C2H6O
product | 4-phenylthiobut-2-yn-1-ol | C1(=CC=CC=C1)SCC#CCO | C10H10OS
